US07521461B2
N-Heptyl-2-phenylacetamide (0.886 g, 3.797 mmol) was dissolved in THF (10 ml) and was cooled to zero degrees under argon atmosphere. (Methylthio)methane compound with borane (1:1) (0.721 g, 9.492 mmol) was added and the mixture was refluxed for 5 hours. After the mixture was cooled to room temperature, 5 ml HCl (10%) was gently added and was stirred overnight. The solvent was removed by evaporation. EtOAc (20 ml) was added and the organic phase was washed with K2CO3 (2M, 2×20 ml). The crude was purified by flash chromatography (started with isocratic heptane/EtOAc 50/50 and then the EtOAc concentration was increased to 100%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the EtOAc was removed by evaporation to give 0.584 g of N-(2-phenylethyl)heptan-1-amine (yield 70.1%).

reactant | N-Heptyl-2-phenylacetamide | 3.797 mmol, 0.886 g | C(CCCCCC)NC(CC1=CC=CC=C1)=O | C15H23NO
reactant | (Methylthio)methane compound with borane | 9.492 mmol, 0.721 g | B.CSC
reactant | HCl | 5 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-(2-phenylethyl)heptan-1-amine | 0.584 g, yield 70.1% | C1(=CC=CC=C1)CCNCCCCCCC | C15H25N
